US07485634B2
Preparation of 3-(4-n-butoxycarbonyl-phenylcarbamoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
The title compound was prepared in a manner similar to that described in Example 72 by using ethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and 4-(carbobutoxy)phenyl isocyanate (˜2.0 mg); MS (ES): 476 (MH+).

reactant | ethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | C(C)OC(=O)C1=CNCCC2=C1NC=1C=CC=CC21 | C15H16N2O2
reactant | 4-(carbobutoxy)phenyl isocyanate | ˜2.0 mg | C(=O)(OCCCC)C1=CC=C(C=C1)N=C=O | C12H13NO3
product | 3-(4-n-butoxycarbonyl-phenylcarbamoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CCC2=C1NC=1C=CC=CC21)C(NC2=CC=C(C=C2)C(=O)OCCCC)=O | C27H29N3O5
